US07534788B2
Step 1: 2,4-Dimethoxy-5-methyl-benzaldehyde
To a solution of 2,4-dimethoxytoluene (5.50 g, 36.1 mmol) in 55 mL of N-methyl-N-phenyl-formamide was added at 0° C. POCl3 (10.9 mL, 3 eq.), and the mixture was heated for 60 Min. to 80° C. After cooling, the reaction mixture was poured onto crashed ice, the precipitate filtered and washed twice with water/MeOH=8/2 to leave after drying 5.40 g of the title product as light yellow crystals.

reactant | 2,4-dimethoxytoluene | 36.1 mmol, 5.50 g | COC1=C(C=CC(=C1)OC)C | C9H12O2
reactant | POCl3 | 10.9 mL, 3 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-methyl-N-phenyl-formamide | 55 mL | CN(C=O)C1=CC=CC=C1 | C8H9NO
product | 2,4-Dimethoxy-5-methyl-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C | C10H12O3
